US06288120B1
N-(4-Butyl-benzyl)-methanesulfonamide
To a solution of 4-butylbenzylamine (4.01 g, 24.6 mmol) in CH2Cl2 (75 mL) was added pyridine (4.0 mL, 49 mmol) followed by dropwise addition of methanesulfonyl chloride (2.5 mL, 32.3 mmol). The reaction was stirred at room temperature for 24 h and water was added. The product was extracted into CH2Cl2 (2×) and the organic solution was dried (MgSO4), filtered, and concentrated. Flash chromatography (2:1 to 1:1 hexanes:EtOAc) provided the title compound as a white solid (3.4114 g). 1H NMR (400 MHz, CDCl3) δ 7.23 (d, 2H), 7.15 (d, 2H), 4.84 (m, 1H), 4.25 (d, 2H), 2.82 (s, 3H), 2.58 (t, 2H), 1.56 (m, 2H), 1.33 (m, 2H), 0.91 (t, 3H).

reactant | 4-butylbenzylamine | 24.6 mmol, 4.01 g | C(CCC)C1=CC=C(CN)C=C1 | C11H17N
reactant | pyridine | 49 mmol, 4.0 mL | N1=CC=CC=C1 | C5H5N
reactant | methanesulfonyl chloride | 32.3 mmol, 2.5 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | water | O | H2O
solvent | CH2Cl2 | 75 mL | C(Cl)Cl | CH2Cl2
product | N-(4-Butyl-benzyl)-methanesulfonamide | 3.4114 g | C(CCC)C1=CC=C(CNS(=O)(=O)C)C=C1 | C12H19NO2S
